US07417050B2
(a) 2-Tri-n-butylstannylbenzothiazole
n-Butyllithium (1.6M, 10 mL, 15.98 mmol) was added to a solution of benzothiazole (1.80 g, 13.3 mmol) in anhydrous ether (30 ml) stirred at −78° C. under nitrogen. After 10 min, tri-n-butylstannyl chloride (4.33 g, 13.31 mmol) was added, then the solution was allowed to warm to room temperature, and stirred for another 1 h. The mixture was quenched and washed with 1N sodium hydroxide, dried through MgSO4, filtered, and evaporated to give the sub-title compound as a brown oily residue (5.0 g), which was used without further purification in the next step.

reactant | n-Butyllithium | 15.98 mmol, 1.6M, 10 mL | C(CCC)[Li]
reactant | benzothiazole | 13.3 mmol, 1.80 g | S1C=NC2=C1C=CC=C2 | C7H5NS
reactant | tri-n-butylstannyl chloride | 13.31 mmol, 4.33 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-Tri-n-butylstannylbenzothiazole | C(CCC)[Sn](C=1SC2=C(N1)C=CC=C2)(CCCC)CCCC | InChI=1S/C7H4NS.3C4H9.Sn/c1-2-4-7-6(3-1)8-5-9-7;3*1-3-4-2;/h1-4H;3*1,3-4H2,2H3;
